US09102688B2
General Procedure 26: N-(5-Bromo-quinolin-8-yl)-benzenesulfonamide (Example Compound 29)
Benzenesulfonyl chloride (72 μl, 0.57 mmol) was added to a solution of 5-bromoquinolin-8-ylamine hydrochloride (84 mg, 0.38 mmol) in pyridine (150 μl, 1.89 mmol) and DCM (5 ml) and the mixture was stirred at room temperature for 20 h. Water (5 ml) was added and the organic phase was separated. The aqueous phase was extracted with DCM and the combined organic phases were dried (MgSO4) and concentrated in vacuo. The crude residue was purified by trituration from DMSO/MeOH (1:2) to give the title compound (60 mg, 44%).

reactant | Benzenesulfonyl chloride | 0.57 mmol, 72 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 5-bromoquinolin-8-ylamine hydrochloride | 0.38 mmol, 84 mg | Cl.BrC1=C2C=CC=NC2=C(C=C1)N
reactant | pyridine | 1.89 mmol, 150 μl | N1=CC=CC=C1 | C5H5N
reactant | Water | 5 ml | O | H2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Bromo-quinolin-8-yl)-benzenesulfonamide | 60 mg, 44% | BrC1=C2C=CC=NC2=C(C=C1)NS(=O)(=O)C1=CC=CC=C1 | C15H11BrN2O2S
